US06699852B2
(7bR,11aS)-6-[4-methoxy-2-(trifluoromethyl)phenyl]-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole
Using 4-methoxy-2-(trifluoromethyl)phenyl boronic acid and following the procedures described in EXAMPLE 9, tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate was converted into the title compound of EXAMPLE 12. 1H NMR(CDCl3, 300 MHz): δ 7.20 (m, 3H), 7.05 (m, 2H), 6.89 (s, 1H), 6.79 (s, 1H), 3.84 (s, 3H), 3.81 (m, 2H), 3.59 (m, 1H), 3.45 (m, 1H), 3.21 (m, 2H), 3.0 (m, 2H), 2.92 (m, 3H), 2.60 (m, 1H), 1.80 (m, 2H). LRMS (ES+): 421 (M+H)+.

reactant | 4-methoxy-2-(trifluoromethyl)phenyl boronic acid | COC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O3
reactant | tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCN(C3)C(=O)OC(C)(C)C | C19H25BrN2O2S
product | (7bR,11aS)-6-[4-methoxy-2-(trifluoromethyl)phenyl]-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole | COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCNC3)C(F)(F)F | C22H23F3N2OS
